US07432291B2
i) 3-(4-Trifluoromethoxy-phenyl)-acrylic acid
A mixture of 5.00 g (3.80 ml, 26.3 mmol) 4-trifluoromethoxy-benzaldehyde, 3.10 g (30.0 mmol) malonic acid, 0.26 g (3.0 mmol) piperidine and 15.0 ml pyridine was kept at reflux temperature until carbon dioxide development ceased (3 h). After cooling to room temperature the reaction mixture was poured onto 50 g ice and 15 ml 6N HCl. The precipitate was isolated, washed with water and dried. Yield: 5.20 g (85%) 3-(4-Trifluoromethoxy-phenyl)-acrylic acid.

reactant | 4-trifluoromethoxy-benzaldehyde | 26.3 mmol, 3.80 ml, 5.00 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | malonic acid | 30.0 mmol, 3.10 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 3.0 mmol, 0.26 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 15 ml | Cl | ClH
solvent | pyridine | 15.0 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Trifluoromethoxy-phenyl)-acrylic acid | FC(OC1=CC=C(C=C1)C=CC(=O)O)(F)F | C10H7F3O3
